US06329389B1
6-Chloro-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline
1M Borane/THF complex (33 ml) was added to a THF (300 ml) suspension of 6-chloro-N,N-dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide (2.135 g). The reaction mixture was heated under reflux for 6 hours, and left standing for cooling. The reaction mixture was ice-cooled, to which was added water (5 ml) and 6N hydrochloric acid (30 ml). The mixture was stirred at room temperature for 15 hours, then concentrated. 3N aqueous sodium hydroxide solution was added to the residue to make basic, which was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate/hexane=1/4). The obtained crude crystals were washed with hexane to obtain the entitled compound (1.432 g).

reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | 6-chloro-N,N-dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide | 2.135 g | ClC=1C=C2CC(C(NC2=CC1)=O)C(=O)N(C)C | C12H13ClN2O2
reactant | hydrochloric acid | 6N, 30 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 6-Chloro-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline | 1.432 g | ClC=1C=C2CC(CNC2=CC1)CN(C)C | C12H17ClN2
